US07468442B2
Step-1: Preparation of (2,3-Epoxy propoxy)carbazole
100 g (0.55 moles) of 4-hydroxy carbazole is dissolved in 600 ml of acetone. To that 188 g (1.36 moles) potassium carbonate, 2.0 g potassium iodide and 0.5 g sodium dithionate are added under nitrogen. The reaction mass is refluxed for 1.0 hr, cooled to room temperature followed by the addition of 150 g (1.62 moles) of epichlorohydrin through a dropping funnel over 40-45 min at room temp. The reaction mass is further refluxed for 32 hrs and then cooled to room temp and filtered. The above filtrate is evaporated followed by recrystallisation of the crude product from methanol.

reactant | 4-hydroxy carbazole | 0.55 moles, 100 g | OC1=CC=CC=2NC3=CC=CC=C3C12 | C12H9NO
reactant | potassium carbonate | 1.36 moles, 188 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.0 g | [I-].[K+]
reactant | sodium dithionate | 0.5 g | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | epichlorohydrin | 1.62 moles, 150 g | C(Cl)C1CO1 | C3H5ClO
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | (2,3-Epoxy propoxy)carbazole | O1C(COC2=CC=CC=3C4=CC=CC=C4NC23)C1 | C15H13NO2
